US07745641B2
In a similar manner to Step 2 of Example 16, 2-chloro-6-methyl-N-(1-methyl-1-phenylethyl)nicotinamide (500 mg, 1.73 mmol) was dissolved in THF (20 mL), and the solution was treated with n-butyllithium-hexane solution (2.71 mol/L, 4.33 mL, 3.23 mmol) and DMF (0.335 mL, 4.33 mmol), followed by purification by flash column chromatography (hexane/ethyl acetate=80/20 to 75/25) to obtain 4-chloro-1-hydroxy-6-methyl-2-(1-methyl-1-phenylethyl)-1,2-dihydropyrrolo[3,4-c]pyridine-3-one (326 mg, yield 59%).

reactant | 2-chloro-6-methyl-N-(1-methyl-1-phenylethyl)nicotinamide | 1.73 mmol, 500 mg | ClC1=C(C(=O)NC(C)(C2=CC=CC=C2)C)C=CC(=N1)C | C16H17ClN2O
reactant | DMF | 4.33 mmol, 0.335 mL | CN(C)C=O | C3H7NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-chloro-1-hydroxy-6-methyl-2-(1-methyl-1-phenylethyl)-1,2-dihydropyrrolo[3,4-c]pyridine-3-one | 326 mg, yield 59% | ClC1=NC(=CC2=C1C(N(C2O)C(C)(C2=CC=CC=C2)C)=O)C | C17H17ClN2O2
